US03950432
EXAMPLE II -- Preparation of 2,2-Di-(t-Octylperoxy)Butane
To a jacketed reactor was charged 8.36g. (0.116 mole) of 2-butanone, 38.0g. (0.232 mole) of 1,1,3,3-tetramethylbutyl hydroperoxide (89.7% assay) and 100 ml. of pentane. To the vigorously stirred mixture at 0°C was added 17.2g. of 77% sulfuric acid over a period of 15 minutes and the mixture was allowed to stir at 0°C for 4 hours. The product was worked up as in Example I and 23.8g. (59.5% of theory, uncorr.) of liquid was obtained which had an active oxygen content of 8.41% (theory, 9.25%). Hence, the assay of the product was 91.0% and the corrected yield was 54.2%. An infrared spectrum of the product showed no OH or C=O bands but showed a strong and broad OO band centered at 875 cm-1.

reactant | 2-butanone | 0.116 mole | CC(CC)=O | C4H8O
reactant | 1,1,3,3-tetramethylbutyl hydroperoxide | 0.232 mole | CC(CC(C)(C)C)(C)OO | C8H18O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | oxygen | O=O | O2
solvent | pentane | CCCCC | C5H12
product | 2,2-Di-(t-Octylperoxy)Butane | yield was 54.2% | C(C)(C)(CC(C)(C)C)OOC(C)(CC)OOC(C)(C)CC(C)(C)C | C20H42O4
